US04376786
64.5 g of a 15% strength solution of butyl-lithium in n-hexane were added dropwise to a suspension of 68.3 g (0.15 mol) of n-octyl-triphenylphosphonium bromide in 300 ml of absolute tetrahydrofuran at 0°-5° C., with the exclusion of air. After one hour, 25.5 g (0.15 mol) of ethyl 2-formyl-3,3-dimethylcyclopropanecarboxylate were slowly added, and the mixture was further stirred for 18 hours at room temperature. The mixture was shaken after the addition of 400 ml of toluene and 300 ml of water, the water was separated off and the organic phase was washed once again with 200 ml of water. The toluene solution was then dried over sodium sulphate and the solvent was distilled off in vacuo. The residue was stirred with 300 ml of petroleum ether (40°-60° C.), the solution was filtered off from the undissolved triphenylphosphine oxide, and the filtrate was again concentrated by evaporation in vacuo. The residue was distilled in vacuo. 22.6 g (57% of theory) of ethyl 2-(1-nonen-1-yl)-3,3-dimethylcyclopropanecarboxylate with a boiling point of 90° C./0.01 mm Hg were thus obtained.

reactant | butyl-lithium | C(CCC)[Li]
reactant | n-octyl-triphenylphosphonium bromide | 0.15 mol, 68.3 g | [Br-].C(CCCCCCC)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | ethyl 2-formyl-3,3-dimethylcyclopropanecarboxylate | 0.15 mol, 25.5 g | C(=O)C1C(C1(C)C)C(=O)OCC | C9H14O3
reactant | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
solvent | n-hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
solvent | water | 300 ml | O | H2O
product | ethyl 2-(1-nonen-1-yl)-3,3-dimethylcyclopropanecarboxylate | 22.6 g, 57% | C(=CCCCCCCC)C1C(C1(C)C)C(=O)OCC | C17H30O2
